US04073936
1-bromo-3-(p-biphenylyl)-1,2-butadiene
A suspension of 1.1 g of 3-(p-biphenylyl)-but-1-yn-3-ol (obtainable analogously to Steps A and B, Example 10), 1.8 g of ammonium bromide and 0.2 g cuprous chloride in 10 ml of 48% hydrobromic acid is stirred for 4 hours at room temperature. The reaction mixture is then poured into water and extracted 3 times with 8 ml portions of methylene chloride. The combined organic extracts are washed 3 times with water, dried over anh. S.S., filtered and evaporated (i.v.) to dryness to obtain a residue. The residue is chromatographed on silica gel using chloroform/pentane (1:1) as eluent. The solvent is removed by evaporation to obtain a residue, from which 1-bromo-3-(p-biphenylyl)-1,2-butadiene is crystallized from pentane.

reactant | 3-(p-biphenylyl)-but-1-yn-3-ol | 1.1 g | C1(=C(C=CC=C1)C(C#C)(C)O)C1=CC=CC=C1 | C16H14O
reactant | ammonium bromide | 1.8 g | [Br-].[NH4+]
reactant | water | O | H2O
solvent | hydrobromic acid | 10 ml | Br | BrH
product | 1-bromo-3-(p-biphenylyl)-1,2-butadiene | BrC=C=C(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H13Br
